US05232940
A mixture of 2,4,6-trichlorophenylhydrazine (21.1 g) and tetracyanoethylene (13.3 g) in ethanol (100 ml) was heated at reflux for 15 minutes. The reaction mixture was cooled and the solid precipitate was filtered off and washed with diethyl ether to give 5-amino-3,4-dicyano-1-(2,4,6-trichlorophenyl)pyrazole (13 g), as a buff colored solid, m.p. 267°-271° C.

reactant | 2,4,6-trichlorophenylhydrazine | 21.1 g | ClC1=C(C(=CC(=C1)Cl)Cl)NN | C6H5Cl3N2
reactant | tetracyanoethylene | 13.3 g | C(#N)C(=C(C#N)C#N)C#N | C6N4
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 5-amino-3,4-dicyano-1-(2,4,6-trichlorophenyl)pyrazole | 13 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)Cl)Cl)C#N)C#N | C11H4Cl3N5
